US04774254
35.4 g (0.1 mol) of 5-amino-1-(2,6-dichloro-4-trifluoromethyl-phenyl)-4-carbethoxy-pyrazole are heated under reflux for 24 hours in a solution of 8 g (0.2 mol) of sodium hydroxide, 24 ml of water and 100 ml of ethanol. 450 ml of water are subsequently added, and the mixture is washed twice with 70 ml of diethyl ether. The alcohol is removed from the aqueous phase by distillation, and 20 ml of concentrated hydrochloric acid are then added with ice cooling. The suspension is cooled to 5° C., and the precipitate is filtered off under suction, washed with water until neutral, and dried. 26.2 g (74% of theory) of the compound 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-carboxy-pyrazole of melting point 158° C. (decomposition) are obtained.

reactant | 5-amino-1-(2,6-dichloro-4-trifluoromethyl-phenyl)-4-carbethoxy-pyrazole | 0.1 mol, 35.4 g | NC1=C(C=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(=O)OCC | C13H10Cl2F3N3O2
reactant | sodium hydroxide | 0.2 mol, 8 g | [OH-].[Na+]
reactant | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 450 ml | O | H2O
solvent | water | 24 ml | O | H2O
product | 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-carboxy-pyrazole | NC1=C(C=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(=O)O | C11H6Cl2F3N3O2
